US04487779
5-benzyloxy-2-nitro-meta-xylene
A mixture of 3,5-dimethyl-4-nitrophenol (17.6 g), benzyl chloride (20.0 g) and anhydrous K2CO3 (13.2 g) in acetone (100 ml) is stirred under reflux for 22 hours. The reaction mixture is filtered and the precipitate washed with acetone. The acetone extract is concentrated in vacuo and the residue short path distilled (160°-170° C.; 50μ) to give 22.9 grams of an orange liquid which crystallized on standing.

reactant | 3,5-dimethyl-4-nitrophenol | 17.6 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
reactant | benzyl chloride | 20.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 13.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-benzyloxy-2-nitro-meta-xylene | 22.9 grams | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)C)[N+](=O)[O-])C | C15H15NO3
